US04239769
N-Ethyl-N-methyl-2-thiophene methanamine
Bromoethane (150 ml), triethylamine (7.3 ml) and N-methyl-2-thiophenemethanamine (21.2 g) were stirred at room temperature in toluene (212 ml) for 4 days. The solution was diluted with water, saturated with sodium bicarbonate and extracted with ethyl acetate. The organic extracts were distilled to give the title compound as an oil (13.6 g) b.p. 46° (16 mm).

reactant | Bromoethane | 150 ml | BrCC | C2H5Br
reactant | triethylamine | 7.3 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-2-thiophenemethanamine | 21.2 g | CNCC=1SC=CC1 | C6H9NS
solvent | toluene | 212 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-Ethyl-N-methyl-2-thiophene methanamine | 13.6 g | C(C)N(CC=1SC=CC1)C | C8H13NS
